US04113938
(b) 3-(p-Formylphenyl)-1,2-benzisoxazole:
115.8 g of 2-nitropropane are introduced at about 30° C. into a solution of 23.13 g of sodium in 2,700 ml of anhydrous ethanol. The mixture is stirred for a further one hour and a solution of 288.1 g of 3-(p-bromomethyl-phenyl)-1,2-benzisoxazole in 350 ml of dimethylformamide is now added. Subsequently, the reaction mixture is warmed to 50° C., then stirred for 20 hours without external warming and finally cooled to -10° C. The product which has precipitated is filtered off with suction, washed with cold methanol and dried. This gives 107.4 g (48.1% of theory) of 3-(p-formylphenyl)-1,2-benzisoxazole in the form of a pale yellow powder with a melting point of 117° to 117.5° C. After recrystallising twice from ligroin, small, virtually colourless, glossy needles are obtained which melt at 117° to 117.5° C.

reactant | 2-nitropropane | 115.8 g | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | sodium | 23.13 g | [Na] | Na
reactant | 3-(p-bromomethyl-phenyl)-1,2-benzisoxazole | 288.1 g | BrCC1=CC=C(C=C1)C1=NOC2=C1C=CC=C2 | C14H10BrNO
solvent | ethanol | 2,700 ml | C(C)O | C2H6O
solvent | dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
product | 3-(p-Formylphenyl)-1,2-benzisoxazole | C(=O)C1=CC=C(C=C1)C1=NOC2=C1C=CC=C2 | C14H9NO2
